*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.1
* < ILD_dielectric_const = 3.7
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_0 1 2 3 4 REF
C_C1 1 REF 0.670072206939pf
C_C2 1 2 21.048772837909pf
C_C3 1 3 0.0304204963784pf
C_C4 1 4 0.2866266686611pf
C_C5 2 REF 0.9505426509303pf
C_C6 2 3 0.1389601136142pf
C_C7 3 REF 0.9996984074856pf
C_C8 3 4 4.7964600758019pf
C_C9 4 REF 0.9942586936382pf
L_L1 3 5 1.2919985337581nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_1 1 2 3 4 REF
C_C1 1 REF 0.5653716231948pf
C_C2 1 2 21.595749933843pf
C_C3 1 3 0.0265599220595pf
C_C4 1 4 0.2937609188609pf
C_C5 2 REF 0.8539703572049pf
C_C6 2 3 0.1420831588651pf
C_C7 3 REF 1.0004580614642pf
C_C8 3 4 3.4866519411572pf
C_C9 4 REF 0.994882192443pf
L_L1 3 5 1.2930438061259nh
R_RL1 5 4 2.4932340239e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_2 1 2 3 4 REF
C_C1 1 REF 0.4904433690025pf
C_C2 1 2 22.186915017277pf
C_C3 1 3 0.0229725779905pf
C_C4 1 4 0.3011891219841pf
C_C5 2 REF 0.7887899545712pf
C_C6 2 3 0.1448765322754pf
C_C7 3 REF 1.0012746365448pf
C_C8 3 4 2.5761416084681pf
C_C9 4 REF 0.9955995085652pf
L_L1 3 5 1.2939097766163nh
R_RL1 5 4 1.2241120203e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_3 1 2 3 4 REF
C_C1 1 REF 0.4293427785067pf
C_C2 1 2 22.988730293708pf
C_C3 1 3 0.0188410353356pf
C_C4 1 4 0.3109656608705pf
C_C5 2 REF 0.7417063326744pf
C_C6 2 3 0.148038175087pf
C_C7 3 REF 1.0022755107276pf
C_C8 3 4 1.797230044941pf
C_C9 4 REF 0.9964963289676pf
L_L1 3 5 1.2947803901485nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_4 1 2 3 4 REF
C_C1 1 REF 0.387310513564pf
C_C2 1 2 24.023813517461pf
C_C3 1 3 0.0143334449907pf
C_C4 1 4 0.3232801110756pf
C_C5 2 REF 0.7182058465589pf
C_C6 2 3 0.1515303348581pf
C_C7 3 REF 1.0033328496105pf
C_C8 3 4 1.1776812107255pf
C_C9 4 REF 0.9974520398845pf
L_L1 3 5 1.2956430433176nh
R_RL1 5 4 -1.570104814e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_5 1 2 3 4 REF
C_C1 1 REF 0.3663838715359pf
C_C2 1 2 25.154197557969pf
C_C3 1 3 0.0101274773858pf
C_C4 1 4 0.3364590683608pf
C_C5 2 REF 0.7174820031108pf
C_C6 2 3 0.154936704642pf
C_C7 3 REF 1.0041809184019pf
C_C8 3 4 0.7716866975351pf
C_C9 4 REF 0.9982336256816pf
L_L1 3 5 1.2963321409919nh
R_RL1 5 4 -2.702052188e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_6 1 2 3 4 REF
C_C1 1 REF 0.3565434209883pf
C_C2 1 2 26.391579571918pf
C_C3 1 4 0.3506666391727pf
C_C4 2 REF 0.7293662153896pf
C_C5 2 3 0.1584684998071pf
C_C6 3 REF 1.004808179565pf
C_C7 3 4 0.4965776899656pf
C_C8 4 REF 0.9988403620796pf
L_L1 3 5 1.2968912383422nh
R_RL1 5 4 -3.557613582e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_7 1 2 3 4 REF
C_C1 1 REF 0.3508699289027pf
C_C2 1 2 28.00313686217pf
C_C3 1 4 0.3689268382355pf
C_C4 2 REF 0.7511918941757pf
C_C5 2 3 0.1630241947628pf
C_C6 3 REF 1.0052815535759pf
C_C7 3 4 0.2798915758642pf
C_C8 4 REF 0.999356379645pf
L_L1 3 5 1.297410699736nh
R_RL1 5 4 -4.213413786e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_8 1 2 3 4 REF
C_C1 1 REF 0.3452622522204pf
C_C2 1 2 30.078319960911pf
C_C3 1 4 0.3921732111974pf
C_C4 2 REF 0.7798072392155pf
C_C5 2 3 0.1690363738777pf
C_C6 3 REF 1.0055511714481pf
C_C7 3 4 0.1156251726722pf
C_C8 4 REF 0.9997575720369pf
L_L1 1 5 98.982070235907nh
R_RL1 5 2 7.459824078765
L_L2 3 6 1.2978744104682nh
R_RL2 6 4 -4.586461682e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_9 1 2 3 4 REF
C_C1 1 REF 0.3351191561828pf
C_C2 1 2 32.822835830043pf
C_C3 1 4 0.4226036357005pf
C_C4 2 REF 0.8132335693078pf
C_C5 2 3 0.1773842060445pf
C_C6 3 REF 1.0055870268277pf
C_C7 4 REF 1.0000460724343pf
L_L1 1 5 62.901005157321nh
R_RL1 5 2 4.0592648141587
L_L2 3 6 1.2982411432186nh
R_RL2 6 4 -4.555244277e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_10 1 2 3 4 REF
C_C1 1 REF 0.3162936878721pf
C_C2 1 2 36.489098421178pf
C_C3 1 4 0.4629372406476pf
C_C4 2 REF 0.8506472872247pf
C_C5 2 3 0.1891609093861pf
C_C6 3 REF 1.0054059573645pf
C_C7 4 REF 1.0002621585098pf
L_L1 1 5 39.381315101979nh
R_RL1 5 2 1.7692195847485
L_L2 3 6 1.2980989860523nh
R_RL2 6 4 -4.07311245e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_11 1 2 3 4 REF
C_C1 1 REF 0.2836408987076pf
C_C2 1 2 41.638005041904pf
C_C3 1 4 0.5192672220298pf
C_C4 2 REF 0.894762520393pf
C_C5 2 3 0.2065663152692pf
C_C6 3 REF 1.0050242184266pf
C_C7 4 REF 1.0004721364834pf
L_L1 1 5 24.135570595561nh
R_RL1 5 2 0.6160234860918
L_L2 3 6 1.2978102055526nh
R_RL2 6 4 -3.132065467e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_12 1 2 3 4 REF
C_C1 1 REF 0.2309674346445pf
C_C2 1 2 49.147270960457pf
C_C3 1 4 0.6011790609986pf
C_C4 2 REF 0.9520468828907pf
C_C5 2 3 0.2328873127179pf
C_C6 3 REF 1.0044680579821pf
C_C7 4 REF 1.0007768898409pf
L_L1 1 5 14.343047299357nh
R_RL1 5 2 0.3832078558135
L_L2 3 6 1.2973639029683nh
R_RL2 6 4 -1.787942165e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_13 1 2 3 4 REF
C_C1 1 REF 0.1438987689114pf
C_C2 1 2 61.098162738313pf
C_C3 1 4 0.7314149315875pf
C_C4 2 REF 1.0384625051727pf
C_C5 2 3 0.2756660629205pf
C_C6 3 REF 1.0037198813025pf
C_C7 4 REF 1.0013589254712pf
R_R1 1 2 815.76857280737
L_L1 1 5 8.5670575769845nh
R_RL1 5 2 0.6230367278349
L_L2 3 6 1.2966126017293nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_14 1 2 3 4 REF
C_C1 1 2 81.841395798516pf
C_C2 1 4 0.9575283482357pf
C_C3 2 REF 1.187149995822pf
C_C4 2 3 0.3504477099905pf
C_C5 3 REF 1.0027004956553pf
C_C6 4 REF 1.0025788739766pf
R_R1 1 2 364.42600836993
L_L1 1 5 4.4984072816186nh
R_RL1 5 2 -0.802862619181
L_L2 3 6 1.2954049488964nh
R_RL2 6 4 1.2581842384e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_15 1 2 3 4 REF
C_C1 1 2 124.82107250139pf
C_C2 1 4 1.4263657630978pf
C_C3 2 REF 1.4975714227106pf
C_C4 2 3 0.5052672263853pf
C_C5 3 REF 1.001078931008pf
C_C6 4 REF 1.0055106714273pf
R_R1 1 2 170.42502190638
L_L1 1 5 1.9006134660263nh
R_RL1 5 2 -0.122967671606
L_L2 1 6 79.884304692389nh
R_RL2 6 3 -0.145097432392
L_L3 1 7 79.137318952797nh
R_RL3 7 4 -0.145502422461
L_L4 2 8 79.943933961781nh
R_RL4 8 3 0.0115620320442
L_L5 2 9 79.199592025356nh
R_RL5 9 4 0.0113450871282
L_L6 3 10 1.2929759339515nh
R_RL6 10 4 2.8432650097e-5
Kn_K1 L_L1 L_L2 0.0747037553102
Kn_K2 L_L1 L_L3 0.0749477098552
Kn_K3 L_L1 L_L4 -0.079513376979
Kn_K4 L_L1 L_L5 -0.079993892081
Kn_K5 L_L2 L_L3 0.9918801248478
Kn_K6 L_L2 L_L4 0.9881084688729
Kn_K7 L_L2 L_L5 0.9799175823616
Kn_K8 L_L2 L_L6 -0.100361250022
Kn_K9 L_L3 L_L4 0.9799540073743
Kn_K10 L_L3 L_L5 0.987996473119
Kn_K11 L_L3 L_L6 0.0269878917953
Kn_K12 L_L4 L_L5 0.9918862590744
Kn_K13 L_L4 L_L6 -0.10019379359
Kn_K14 L_L5 L_L6 0.0271079095366
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_16 1 2 3 4 REF
C_C1 1 2 256.67908530608pf
C_C2 1 4 2.8656122839672pf
C_C3 2 REF 2.457146261551pf
C_C4 2 3 0.9786415010521pf
C_C5 3 REF 0.9971009830974pf
C_C6 4 REF 1.0154377980826pf
R_R1 1 2 60.746191412744
L_L1 1 5 80.559367845993nh
R_RL1 5 REF -4.322061742725
L_L2 1 6 0.6294468502377nh
R_RL2 6 2 -0.046839455578
L_L3 1 7 30.35894689293nh
R_RL3 7 3 -0.041641379703
L_L4 1 8 29.663022183572nh
R_RL4 8 4 -0.042170467187
L_L5 2 9 80.024270264421nh
R_RL5 9 REF -4.392114582869
L_L6 2 10 30.448388965281nh
R_RL6 10 3 0.0021259376972
L_L7 2 11 29.756152447629nh
R_RL7 11 4 0.0020508635064
L_L8 3 12 1.2858680672628nh
R_RL8 12 4 3.6948952123e-5
Kn_K1 L_L1 L_L2 0.0817689668283
Kn_K2 L_L1 L_L5 0.9960857854672
Kn_K3 L_L2 L_L3 0.0617653238961
Kn_K4 L_L2 L_L4 0.0620588897868
Kn_K5 L_L2 L_L5 1.0
Kn_K6 L_L2 L_L6 -0.082105094282
Kn_K7 L_L2 L_L7 -0.083480739361
Kn_K8 L_L3 L_L4 0.9786424925638
Kn_K9 L_L3 L_L5 1.0
Kn_K10 L_L3 L_L6 0.9896495753088
Kn_K11 L_L3 L_L7 0.9681265243987
Kn_K12 L_L3 L_L8 -0.158593976518
Kn_K13 L_L4 L_L5 1.0
Kn_K14 L_L4 L_L6 0.9682812509611
Kn_K15 L_L4 L_L7 0.9894078865352
Kn_K16 L_L4 L_L8 0.0477611105146
Kn_K17 L_L6 L_L7 0.9787063740408
Kn_K18 L_L6 L_L8 -0.158066154884
Kn_K19 L_L7 L_L8 0.0479844349866
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_17 1 2 3 4 REF
C_C1 1 2 1516.3836471375pf
C_C2 1 4 16.619310591222pf
C_C3 2 REF 11.647745535372pf
C_C4 2 3 5.4917766315309pf
C_C5 3 REF 0.9636351445096pf
C_C6 4 REF 1.115146155597pf
R_R1 1 REF -531.4617872021
R_R2 1 2 4.669096907824
R_R3 1 4 401.87100085513
R_R4 2 REF 516.80621017548
R_R5 2 4 -401.8170339097
L_L1 1 5 8.1428070799276nh
R_RL1 5 REF -0.049692187699
L_L2 1 6 0.0721201378091nh
R_RL2 6 2 -0.010500908625
L_L3 1 7 4.6186729905659nh
R_RL3 7 3 -6.547744894e-3
L_L4 1 8 3.9881559859233nh
R_RL4 8 4 -7.448530282e-3
L_L5 2 9 8.0971384847828nh
R_RL5 9 REF -0.063417157476
L_L6 2 10 4.6352769576009nh
R_RL6 10 3 -3.223266202e-4
L_L7 2 11 4.0094660132575nh
R_RL7 11 4 -1.691053572e-4
L_L8 3 12 12.679737618991nh
R_RL8 12 REF -0.058308144284
L_L9 3 13 1.2209636271682nh
R_RL9 13 4 1.0179077119e-5
L_L10 4 14 12.042240825551nh
R_RL10 14 REF -0.059470207806
Kn_K1 L_L1 L_L2 0.0768525722213
Kn_K2 L_L1 L_L5 0.9955630263886
Kn_K3 L_L1 L_L8 0.7973455856999
Kn_K4 L_L1 L_L10 0.8178260909707
Kn_K5 L_L2 L_L3 0.0480952986795
Kn_K6 L_L2 L_L4 0.0473702636012
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.076726522073
Kn_K9 L_L2 L_L7 -0.086873151884
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.8604521315019
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9922081534509
Kn_K15 L_L3 L_L7 0.8517120494541
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.389833544912
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.8530008831939
Kn_K21 L_L4 L_L7 0.9909858201703
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.1337867844741
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.79651809323
Kn_K26 L_L5 L_L10 0.8167376941974
Kn_K27 L_L6 L_L7 0.8610214023965
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.388145613987
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.1344942658256
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.236165701048
Kn_K35 L_L8 L_L10 0.9509284331416
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_18 1 2 3 4 REF
C_C1 1 REF 18.423490754796pf
C_C2 1 3 8.8593815421305pf
C_C3 2 4 26.793769296829pf
C_C4 3 REF 1.066602312533pf
C_C5 4 REF 0.7990078631899pf
R_R1 1 REF 539.70292505922
R_R2 1 2 -5.384685821601
R_R3 1 4 -447.7443407361
R_R4 2 REF -553.1925428573
R_R5 2 4 447.86181644463
L_L1 1 5 4.1093361393139nh
R_RL1 5 REF -9.167293485e-3
L_L2 1 6 0.4181641563941nh
R_RL2 6 2 0.5234520836425
L_L3 1 7 2.8282619727579nh
R_RL3 7 3 0.2470769286866
L_L4 1 8 2.303836630332nh
R_RL4 8 4 0.3311575264141
L_L5 2 9 4.5014994185822nh
R_RL5 9 REF 0.5810692023784
L_L6 2 10 2.7027941904811nh
R_RL6 10 3 0.0511907803317
L_L7 2 11 2.0985483783928nh
R_RL7 11 4 0.021854477025
L_L8 3 12 6.9408260417614nh
R_RL8 12 REF 0.2835481135349
L_L9 3 13 1.1580747111606nh
R_RL9 13 4 0.0061675249256
L_L10 4 14 6.4259439174619nh
R_RL10 14 REF 0.3748122316967
Kn_K1 L_L1 L_L5 0.9524257038575
Kn_K2 L_L1 L_L8 0.7697519397432
Kn_K3 L_L1 L_L10 0.8009247287018
Kn_K4 L_L2 L_L3 0.2499434436557
Kn_K5 L_L2 L_L4 0.3175953021575
Kn_K6 L_L2 L_L5 1.0
Kn_K7 L_L2 L_L6 -0.137659902153
Kn_K8 L_L2 L_L7 -0.113622310354
Kn_K9 L_L2 L_L8 1.0
Kn_K10 L_L2 L_L9 0.0573512109408
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.7784214977627
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9246349785419
Kn_K15 L_L3 L_L7 0.7040353070445
Kn_K16 L_L3 L_L8 0.9278479415872
Kn_K17 L_L3 L_L9 -0.464833034736
Kn_K18 L_L3 L_L10 0.9654231740425
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.6713617037548
Kn_K21 L_L4 L_L7 0.905999746368
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.1939656750774
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L6 0.0377669643413
Kn_K26 L_L5 L_L7 0.0283230722925
Kn_K27 L_L5 L_L8 0.7817609370305
Kn_K28 L_L5 L_L9 -0.019569701382
Kn_K29 L_L5 L_L10 0.8207847702969
Kn_K30 L_L6 L_L7 0.7648832059
Kn_K31 L_L6 L_L8 1.0
Kn_K32 L_L6 L_L9 -0.498058235676
Kn_K33 L_L6 L_L10 1.0
Kn_K34 L_L7 L_L8 1.0
Kn_K35 L_L7 L_L9 0.1776306218716
Kn_K36 L_L7 L_L10 1.0
Kn_K37 L_L8 L_L9 0.29503998082
Kn_K38 L_L8 L_L10 0.9140400218927
Kn_K39 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_19 1 2 3 4 REF
C_C1 1 2 391.86247013826pf
C_C2 1 4 4.3392625663417pf
C_C3 2 REF 3.4487481855386pf
C_C4 2 3 1.464205665069pf
C_C5 3 REF 0.9921904482655pf
C_C6 4 REF 1.0244244830811pf
R_R1 1 2 -97.29565682886
L_L1 1 5 25.630835338649nh
R_RL1 5 REF -0.235744104919
L_L2 1 6 0.1313305721941nh
R_RL2 6 2 0.0028181622585
L_L3 1 7 11.370048381525nh
R_RL3 7 3 -5.450256699e-4
L_L4 1 8 10.696035392614nh
R_RL4 8 4 -4.487187082e-4
L_L5 2 9 25.390577789386nh
R_RL5 9 REF -0.238224477226
L_L6 2 10 11.450513604554nh
R_RL6 10 3 0.0012614063094
L_L7 2 11 10.784218605246nh
R_RL7 11 4 0.0011113156344
L_L8 3 12 36.755651050814nh
R_RL8 12 REF -0.236463839444
L_L9 3 13 1.2651052649649nh
R_RL9 13 4 1.954124761e-5
L_L10 4 14 36.07279291229nh
R_RL10 14 REF -0.236911893997
Kn_K1 L_L1 L_L2 0.1012669029869
Kn_K2 L_L1 L_L5 0.9974370302614
Kn_K3 L_L1 L_L8 0.8310682613454
Kn_K4 L_L1 L_L10 0.8387519997441
Kn_K5 L_L2 L_L3 0.0208126777442
Kn_K6 L_L2 L_L4 0.0182024519929
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.08635588442
Kn_K9 L_L2 L_L7 -0.092226248381
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9431074979908
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9942512578217
Kn_K15 L_L3 L_L7 0.9369468944593
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.255640589902
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9378385490848
Kn_K21 L_L4 L_L7 0.9938943614591
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0803434619848
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8297416815916
Kn_K26 L_L5 L_L10 0.8372847251461
Kn_K27 L_L6 L_L7 0.9435260250784
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.253726878019
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0810590609803
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1428319634766
Kn_K35 L_L8 L_L10 0.982672163885
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_20 1 2 3 4 REF
C_C1 1 2 84.41232577936pf
C_C2 1 4 0.9810631935141pf
C_C3 2 REF 1.2118324611867pf
C_C4 2 3 0.3621853973163pf
C_C5 3 REF 1.0000415467313pf
C_C6 4 REF 0.9996845412984pf
R_R1 1 2 572.17838340954
L_L1 1 5 0.5197014560415nh
R_RL1 5 2 -2.865751928e-3
L_L2 1 6 49.341486263428nh
R_RL2 6 3 0.0020034522179
L_L3 1 7 48.540372603386nh
R_RL3 7 4 0.0019312257777
L_L4 2 8 49.806235615858nh
R_RL4 8 3 0.0017104289656
L_L5 2 9 49.01302619398nh
R_RL5 9 4 0.0017648490461
L_L6 3 10 1.2859139222643nh
R_RL6 10 4 1.0e-5
Kn_K1 L_L1 L_L4 -0.096748713361
Kn_K2 L_L1 L_L5 -0.098311508788
Kn_K3 L_L2 L_L3 0.9868956465684
Kn_K4 L_L2 L_L4 0.9947692403351
Kn_K5 L_L2 L_L5 0.9815668724844
Kn_K6 L_L2 L_L6 -0.131004474795
Kn_K7 L_L3 L_L4 0.9818019924397
Kn_K8 L_L3 L_L5 0.994684321396
Kn_K9 L_L3 L_L6 0.0306814124106
Kn_K10 L_L4 L_L5 0.9870190114924
Kn_K11 L_L4 L_L6 -0.129897995817
Kn_K12 L_L5 L_L6 0.0310309324138
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_21 1 2 3 4 REF
C_C1 1 REF 0.3675396815946pf
C_C2 1 2 33.706191499699pf
C_C3 1 4 0.4272325879144pf
C_C4 2 REF 0.8501386272963pf
C_C5 2 3 0.1786868920739pf
C_C6 3 REF 1.0006391180854pf
C_C7 4 REF 0.9947971671316pf
R_R1 1 2 565.29248712778
L_L1 1 5 0.8621257204954nh
R_RL1 5 2 0.0125523073834
L_L2 3 6 1.2891786431471nh
R_RL2 6 4 -1.526318135e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_22 1 2 3 4 REF
C_C1 1 REF 0.4925404409287pf
C_C2 1 2 17.252250483972pf
C_C3 1 3 0.0658816049987pf
C_C4 1 4 0.245893054546pf
C_C5 2 REF 0.736402801215pf
C_C6 2 3 0.1167124263085pf
C_C7 3 REF 0.9999733405637pf
C_C8 4 REF 0.9921750086414pf
L_L1 1 5 1.2332263085688nh
R_RL1 5 2 -4.015298037e-3
L_L2 3 6 1.2868139215583nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_23 1 2 3 4 REF
C_C1 1 REF 0.5460445436423pf
C_C2 1 2 10.712747316436pf
C_C3 1 3 0.0977803395883pf
C_C4 1 4 0.1713190934943pf
C_C5 2 REF 0.6952891939094pf
C_C6 2 3 0.0889962207769pf
C_C7 2 4 0.026973069584pf
C_C8 3 REF 0.9989943451713pf
C_C9 4 REF 0.9902900982776pf
L_L1 1 5 1.6736372085282nh
R_RL1 5 2 0.034503317368
L_L2 3 6 1.2841852112565nh
R_RL2 6 4 1.1041361063e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_24 1 2 3 4 REF
C_C1 1 REF 0.5737556577975pf
C_C2 1 2 8.2258844016849pf
C_C3 1 3 0.1188634487353pf
C_C4 1 4 0.1390315135308pf
C_C5 2 REF 0.6887475761691pf
C_C6 2 3 0.0731575622757pf
C_C7 2 4 0.0647863753393pf
C_C8 3 REF 0.9975083435317pf
C_C9 4 REF 0.988191440068pf
L_L1 1 5 1.8380898012349nh
R_RL1 5 2 0.0098662402896
L_L2 3 6 1.2807922150724nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_25 1 2 3 4 REF
C_C1 1 REF 0.5884876509767pf
C_C2 1 2 7.6550749637419pf
C_C3 1 3 0.1412400312476pf
C_C4 1 4 0.1226348451234pf
C_C5 2 REF 0.6993114379056pf
C_C6 2 3 0.0574381510406pf
C_C7 2 4 0.0881677805427pf
C_C8 3 REF 0.9955498123298pf
C_C9 4 REF 0.9856741983549pf
L_L1 1 5 1.8743994909792nh
R_RL1 5 2 -3.734730831e-4
L_L2 3 6 1.2766238748618nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_26 1 2 3 4 REF
C_C1 1 REF 0.5922809725144pf
C_C2 1 2 8.1588349364386pf
C_C3 1 3 0.1606783366087pf
C_C4 1 4 0.1162734896788pf
C_C5 2 REF 0.7154682417375pf
C_C6 2 3 0.043338621963pf
C_C7 2 4 0.1001037594987pf
C_C8 3 REF 0.9939528750661pf
C_C9 4 REF 0.9836705380116pf
L_L1 1 5 1.7757007043744nh
R_RL1 5 2 3.2403952396e-5
L_L2 3 6 1.2748323630411nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param03_26

